US06878700B1
(2-Bromophenyl)[2-chloro-4-(E-((3-(2-oxopyrrolidin-1-yl)prop-1-ylamino)carbonyl)ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4 dichlorothiophenol with 2-bromothiophenol, 2-chlorobenzaldehyde with 3,4 dichlorobenzaldehyde, and 6-amino-1-hexanol with 1-(3-aminopropyl)-2-pyrrolidinone. 1H-NMR (DMSO-d6, 300 MHz) δ 8.12 (t, J=5.9 Hz, 1H), 7.81 (m, 2H), 7.52 (dd, J=8.1, 2.0 Hz, 1H), 7.44 (dt, J=7.5, 1.4, 1H), 7.34 (dt, J=7.5, 2.0, 1H), 7.39 (d, J=15.8 Hz, 1H), 7.28 (dd, J=7.6, 1.9 Hz, 1H), 7.05 (d, J=8.1 Hz, 1H), 6.67 (d, J=15.8 Hz, 1H), 4.02 (d, J=0.7 Hz, 1H), 3.29-3.35 (m, 2H), 3.11-3.25 (m, 4H), 2.21 (t, J=8.1 Hz, 1H), 1.94 (m, 2H), 1.64 (m, 2H), MS(APCI) (M+H)+ at m/z 493, 495, 497,499.

reactant | 2,4 dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-bromothiophenol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3,4 dichlorobenzaldehyde | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | 1-(3-aminopropyl)-2-pyrrolidinone | NCCCN1C(CCC1)=O | C7H14N2O
product | (2-Bromophenyl)[2-chloro-4-(E-((3-(2-oxopyrrolidin-1-yl)prop-1-ylamino)carbonyl)ethenyl)phenyl]sulfide | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)NCCCN1C(CCC1)=O)Cl | C22H22BrClN2O2S
